US07790724B2
a) 2-Cyclohex-1-enyl-3-nitro-pyridine
A solution of 1.00 g (6.31 mmol) of 2-chloro-3-nitro-pyridine in toluene (50 mL) and EtOH (25 mL) was treated with 1.58 g (7.57 mmol) of 2-cyclohex-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 25.2 mL (50.4 mmol) of 2.0 M aqueous Na2CO3. The mixture was degassed via sonication, placed under Ar, treated with 729 mg (0.631 mmol) of Pd(PPh3)4, and heated to 80° C. for 16 h. The mixture was diluted with EtOAc (100 mL) and washed with water (1×75 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. Silica gel chromatography of the residue on a 50-g Varian MegaBond Elut SPE column with CH2Cl2 afforded 497 mg (39%) of the title compound as a yellow solid: 1H-NMR (CD3OD; 400 MHz): δ 8.70 (dd, 1H, J=5.2, 1.6 Hz), 8.20 (dd, 1H, J=8.4, 1.6 Hz), 7.51-7.46 (m, 1H), 5.81 (sept, 1H, J=2.4 Hz), 2.44-2.37 (m, 2H), 2.19-2.12 (m, 2H), 1.84-1.76 (m, 2H), 1.74-1.66 (m, 2H).

reactant | 2-chloro-3-nitro-pyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-cyclohex-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 7.57 mmol, 1.58 g | C1(=CCCCC1)B1OC(C(O1)(C)C)(C)C | C12H21BO2
reactant | Na2CO3 | 50.4 mmol, 2.0 M, 25.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.631 mmol, 729 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyclohex-1-enyl-3-nitro-pyridine | 497 mg, 39% | C1(=CCCCC1)C1=NC=CC=C1[N+](=O)[O-] | C11H12N2O2
